US07544672B2
A solution of but-3-ynyl 4-methylbenzenesulfonate (1.27 g), 1-(pyridin-2-yl)piperazine (1.17 g) and diisoproylethylamine (1.37 mL) in 1,2-dichloroethane (7 mL) was heated to reflux overnight. The mixture was concentrated, diluted with sat. aq. NaHCO3 (5 mL) and extracted with DCM (2×50 mL). Drying (Na2SO4) and silica gel flash chromatography (EtOAc/hexane 1:1→1:0) afforded 1-(but-3-ynyl)-4-(pyridin-2-yl)piperazine (0.59 g)

reactant | but-3-ynyl 4-methylbenzenesulfonate | 1.27 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC#C | C11H12O3S
reactant | 1-(pyridin-2-yl)piperazine | 1.17 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | diisoproylethylamine | 1.37 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,2-dichloroethane | 7 mL | ClCCCl | C2H4Cl2
product | 1-(but-3-ynyl)-4-(pyridin-2-yl)piperazine | 0.59 g | C(CC#C)N1CCN(CC1)C1=NC=CC=C1 | C13H17N3
